US04808762
To a stirred suspension of 1.4 grams (0.0375 mole) of lithium aluminum hydride in 50 mL of anhydrous diethyl ether was added dropwise during a one hour period a solution of 21.6 grams (0.1 mole) of 4-fluoro-3-phenoxybenzaldehyde in 50 mL of anhydrous diethyl ether. Upon completion of addition, the reaction mixture was heated at reflux for 1.0 hour. The reaction mixture was cooled to 15° C., and 1.4 mL of water was cautiously added dropwise. Upon completion of addition, the reaction mixture was again cooled to 15° C., and 1.4 mL of an aqueous, 15% sodium hydroxide solution was added dropwise, folowed by an additional 4.2 mL of water. The mixture was filtered through diatomaceous earth, and the filtrate was concentrated under reduced pressure, yielding 19.5 grams of 4-fluoro-3-phenoxyphenylmethanol as an oil.

reactant | lithium aluminum hydride | 0.0375 mole, 1.4 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-fluoro-3-phenoxybenzaldehyde | 0.1 mole, 21.6 grams | FC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9FO2
reactant | water | 1.4 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 4.2 mL | O | H2O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 4-fluoro-3-phenoxyphenylmethanol | 19.5 grams | FC1=C(C=C(C=C1)CO)OC1=CC=CC=C1 | C13H11FO2
